US07148234B2
STEP 1. 2-[4-(5-Chloro-2,4-dinitroanilino)phenyl]ethanol
The title compound was prepared according to the procedure described in step 3 of Example 1 from 2,4-dichloro-1,5-dinitrobenzene and 4-aminophenylethyl alcohol.

reactant | 2,4-dichloro-1,5-dinitrobenzene | ClC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])[N+](=O)[O-] | C6H2Cl2N2O4
reactant | 4-aminophenylethyl alcohol | NC1=CC=C(C=C1)CCO | C8H11NO
product | 2-[4-(5-Chloro-2,4-dinitroanilino)phenyl]ethanol | ClC=1C(=CC(=C(NC2=CC=C(C=C2)CCO)C1)[N+](=O)[O-])[N+](=O)[O-] | C14H12ClN3O5
